US08026257B2
tert-Butyl 4-(((3-bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
3-Bromo-7-(bromomethyl)-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole (140 mg, 0.29 mmol) and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (75 mg, 0.26 mmol) were combined in dimethylformamide (2 mL) and cooled to 0° C. The reaction was treated with sodium hydride (14 mg, 0.57 mmol), stirred at 0° C. for 1 h, and at room temperature for 30 min. The reaction mixture was diluted with water and extracted with ethyl acetate (2×). The organic layers were pooled together, washed with brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (10%→20% ethyl acetate/hexanes) gave 101 mg (50%) as an oil. 1H-NMR (CDCl3, 500 MHz) δ 7.86 (s, 1H), 7.44 (s, 1H), 7.14-7.18 (m, 5H), 5.26 (s, 2H), 4.68 (s, 2H), 3.69 (m, 2H), 3.44 (s, 2H), 3.38-3.41 (m, 2H), 2.98-3.02 (m, 2H), 2.11-2.14 (m, 2H), 1.72-1.77 (m, 2H), 1.41 (s, 9H), 0.74-0.77 (m, 2H), 0.10 (s, 9H). Mass spec.: 700.11 (MH)+.

reactant | 3-Bromo-7-(bromomethyl)-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole | 0.29 mmol, 140 mg | BrC=1N(N=C2C(=CC(=CC12)C(F)(F)F)CBr)COCC[Si](C)(C)C | C15H19Br2F3N2OSi
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 0.26 mmol, 75 mg | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | sodium hydride | 0.57 mmol, 14 mg | [H-].[Na+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 4-(((3-bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | BrC=1N(N=C2C(=CC(=CC12)C(F)(F)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C32H43BrF3N3O4Si
